** sch_path: /home/madvlsi/SKY130-AY38910/DAC/decoder_4b.sch
**.subckt decoder_4b A3 A2 A0 A1 MUX0 MUX1 MUX2 MUX3 MUX4 MUX5 MUX6 MUX7 MUX8 MUX9 MUX10 MUX11 MUX12 MUX13 MUX14 MUX15 VP VN
*.iopin MUX0
*.iopin MUX1
*.iopin MUX2
*.iopin MUX3
*.iopin MUX4
*.iopin MUX5
*.iopin MUX6
*.iopin MUX7
*.iopin MUX8
*.iopin MUX9
*.iopin MUX10
*.iopin MUX11
*.iopin MUX12
*.iopin MUX13
*.iopin MUX14
*.iopin MUX15
*.ipin A0
*.ipin A1
*.ipin A2
*.ipin A3
*.iopin VP
*.iopin VN
x8 net1 net2 net3 net4 MUX0 VP VN AND_4
x4 A0 net2 net3 net4 MUX1 VP VN AND_4
x5 net1 A1 net3 net4 MUX2 VP VN AND_4
x6 A0 A1 net3 net4 MUX3 VP VN AND_4
x7 net1 net2 A2 net4 MUX4 VP VN AND_4
x9 A0 net2 A2 net4 MUX5 VP VN AND_4
x10 net1 A1 A2 net4 MUX6 VP VN AND_4
x11 A0 A1 A2 net4 MUX7 VP VN AND_4
x12 net1 net2 net3 A3 MUX8 VP VN AND_4
x13 A0 net2 net3 A3 MUX9 VP VN AND_4
x14 net1 A1 net3 A3 MUX10 VP VN AND_4
x15 A0 A1 net3 A3 MUX11 VP VN AND_4
x16 net1 net2 A2 A3 MUX12 VP VN AND_4
x17 A0 net2 A2 A3 MUX13 VP VN AND_4
x18 net1 A1 A2 A3 MUX14 VP VN AND_4
x19 A0 A1 A2 A3 MUX15 VP VN AND_4
X3 A3 net4 VP VN inverter
X2 A2 net3 VP VN inverter
X1 A1 net2 VP VN inverter
X20 A0 net1 VP VN inverter
**.ends

* expanding   symbol:  AND_4.sym # of pins=7
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/AND_4.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/AND_4.sch
.subckt AND_4 A B C D Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
*.ipin C
*.ipin D
x1 A B net1 VP VN AND
x2 net1 net2 Y VP VN AND
x3 C D net2 VP VN AND
.ends


* expanding   symbol:  inverter.sym # of pins=4
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/inverter.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/inverter.sch
.subckt inverter A Y VP VN
*.ipin A
*.opin Y
*.iopin VN
*.iopin VP
XM2 Y A VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  AND.sym # of pins=5
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/AND.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/AND.sch
.subckt AND A B Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
x1 A B net1 VP VN NAND
X2 net1 Y VP VN inverter
.ends


* expanding   symbol:  NAND.sym # of pins=5
** sym_path: /home/madvlsi/SKY130-AY38910/DAC/NAND.sym
** sch_path: /home/madvlsi/SKY130-AY38910/DAC/NAND.sch
.subckt NAND A B Y VP VN
*.ipin A
*.ipin B
*.opin Y
*.iopin VP
*.iopin VN
XM2 Y A net1 VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
XM11 Y A VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM1 Y B VP VP sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1 m=1
XM3 net1 B VN VN sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
+ m=1
.ends

.GLOBAL GND
.end
